US07563816B2
Step C: 1-[1-(3,3-Dimethyl-2-oxobutyl)-6-methoxy-1H-indazol-3-yl]-2-methylprop-1-en-1-yl dimethyl phosphate
Dissolve 0.52 g 1-(6-methoxy-1H-indazol-3-yl)-2-methylprop-1-en-1-yl dimethyl phosphate from the Step B above in 10 mL dry DMF. Weigh in 0.626 g cesium carbonate. Add 0.315 g (0.237 mL) 1-bromo-3,3-dimethylbutan-2-one and stir the resulting mixture at room temperature for 2 hours and at 50° C. for one day. Remove half of the DMF under reduced pressure. Dilute the residue with 1:1 MeCN and water, and purify on RP-HPLC using 20-100% MeCN gradient without TFA to give the title compound as a colorless solid. The title compound recrystallizes from 1:1 EtOAc and hexanes. 1H NMR (CDCl3, 500 MHz) δ 7.70 (d, 9.0 Hz, 1H), 6.86 (dd, 2.0 & 8.7 Hz, 1H), 6.48 (d, 2.1 Hz, 1H), 5.33 (s, 2H), 3.87 (s, 3H), 3.57 (d, JP-H=11.4 Hz, 6H), 2.02 (d, JP-H=2.5 Hz, 3H), 1.83 (d, JP-H=3.4 Hz, 3H), 1.32 (s, 9H).

reactant | 1-(6-methoxy-1H-indazol-3-yl)-2-methylprop-1-en-1-yl dimethyl phosphate | 0.52 g | P(=O)(OC(=C(C)C)C1=NNC2=CC(=CC=C12)OC)(OC)OC | C14H19N2O5P
reactant | 1-bromo-3,3-dimethylbutan-2-one | 0.237 mL, 0.315 g | BrCC(C(C)(C)C)=O | C6H11BrO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | cesium carbonate | 0.626 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | 1-[1-(3,3-Dimethyl-2-oxobutyl)-6-methoxy-1H-indazol-3-yl]-2-methylprop-1-en-1-yl dimethyl phosphate | P(=O)(OC(=C(C)C)C1=NN(C2=CC(=CC=C12)OC)CC(C(C)(C)C)=O)(OC)OC | C20H29N2O6P
